US08349880B2
Step AAC (1): Followed a method described by A. de Meijer et. al Chem. Eur. J. 2007, 13, 3739. Lithium diisopropylamide (1.8 M in THF, 1.26 mL, 2.26 mmol) was added to a −78° C. solution of 7-(4-fluorophenyl)-1,4-dioxaspiro[4.5]decan-8-one (515 mg, 2.06 mmol, O. Dirat et. al Tetrahedron Lett. 2006, 47, 1295) in THF (7 mL). The resulting mixture was allowed to stir for 1 hr. Trimethylsilane (0.289 mL, 2.264 mmol) was added and the mixture was allowed to warm to rt and stir for 30 min. The crude reaction was diluted with EtOAc and washed with saturated sodium bicarbonate solution. The organic layer was concentrated in vacuo to afford (9-(4-fluorophenyl)-1,4-dioxaspiro[4.5]dec-7-en-8-yloxy)trimethylsilane (696 mg, 100% yield) as a yellow solid. The crude product was used for subsequent chemistry without purification or characterization.

reactant | Lithium diisopropylamide | 2.26 mmol, 1.8 M, 1.26 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 7-(4-fluorophenyl)-1,4-dioxaspiro[4.5]decan-8-one | FC1=CC=C(C=C1)C1CC2(OCCO2)CCC1=O | C14H15FO3
reactant | Trimethylsilane | 2.264 mmol, 0.289 mL | C[SiH](C)C | C3H10Si
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (9-(4-fluorophenyl)-1,4-dioxaspiro[4.5]dec-7-en-8-yloxy)trimethylsilane | 696 mg, 100% yield | FC1=CC=C(C=C1)C1C(=CCC2(OCCO2)C1)O[Si](C)(C)C | C17H23FO3Si
